US05139563
b) Methyl 2-hydroxy-3-methylbutanoate
1.5g of the product of (b) and 2.llg (0.011 moles) of 4,6-dimethyl-2-methanesulphonyl pyrimidine were dissolved in 20ml acetone. 1.6g of potassium carbonate were added and the reaction mixture refluxed for 4 hours. Following thin layer chromatography to establish that the reaction had reached completion, the mixture was evaporated to dryness and 10ml water added. Solvent extraction using chloroform followed and the chloroform extracts were dried over anhydrous sodium sulphate and the solvent evaporated off. The oil resulting was subjected to flash column chromatography using ethyl acetate: hexane (1:1) as eluant to yield 1.1g (yield 42%) of the title compound as a colourless oil.

reactant | 4,6-dimethyl-2-methanesulphonyl pyrimidine | CC1=NC(=NC(=C1)C)S(=O)(=O)C | C7H10N2O2S
reactant | potassium carbonate | 1.6g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 20ml | CC(=O)C | C3H6O
product | Methyl 2-hydroxy-3-methylbutanoate | 1.1g, yield 42% | OC(C(=O)OC)C(C)C | C6H12O3
